US04748272
2-(4-acetyl-2-n-propyl-3-hydroxyphenoxy)-2-(4-chlorophenyl)acetic acid
A mixture of 5 g of Ethyl 2-(4-acetyl-2-n-propyl-3-hydroxyphenoxy)-2-(4-chlorophenyl)acetate in 100 ml of dioxane and 15 ml of concentrated hydrochloric acid was refluxed for 70 hours. The reaction mixture was then cooled and concentrated in vacuum to give 2.6 g of the crude solid. The crude product was crystallized from EtOAc/hexane to give 1.5 g of the pure product, melting point 163°-164°.

reactant | Ethyl 2-(4-acetyl-2-n-propyl-3-hydroxyphenoxy)-2-(4-chlorophenyl)acetate | 5 g | C(C)(=O)C1=C(C(=C(OC(C(=O)OCC)C2=CC=C(C=C2)Cl)C=C1)CCC)O | C21H23ClO5
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
solvent | hydrochloric acid | 15 ml | Cl | ClH
product | 2-(4-acetyl-2-n-propyl-3-hydroxyphenoxy)-2-(4-chlorophenyl)acetic acid | 1.5 g | C(C)(=O)C1=C(C(=C(OC(C(=O)O)C2=CC=C(C=C2)Cl)C=C1)CCC)O | C19H19ClO5
